US08080536B2
General Procedure for the Synthesis of Cyclophosphamide Analogs
A solution of bis(2-chloroethyl)phosphoramidic dichloride (10 mmol) in ethyl acetate (100 mL) is added dropwise to a solution of commercial 3 methylamino-1-phenyl-1-propanol (10 mmol) and triethylamine (20 mmol) in ethyl acetate (100 mL) at rt. After stirring at rt for 3 days, the salts are filtered off and the combined filtrates are concentrated under vacuum. The crude product is purified by column chromatography on silica.

reactant | bis(2-chloroethyl)phosphoramidic dichloride | 10 mmol | ClCCN(P(=O)(Cl)Cl)CCCl | C4H8Cl4NOP
reactant | methylamino-1-phenyl-1-propanol | 10 mmol | CNC(CC)(O)C1=CC=CC=C1 | C10H15NO
reactant | triethylamine | 20 mmol | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Cyclophosphamide | C1CNP(=O)(OC1)N(CCCl)CCCl | C7H15Cl2N2O2P
